### PR TITLE
refactor: rename `SN.isNormalizable` to `SN.normalizable`

### PR DESCRIPTION
**Pull request by lengyijun**
Reprove `SN.isNormalizable to move SN-related theorems adjacent

Old proof use `Terminating.subtype_sn`
New proof just `by_cases (∃ y, r x y)`

### CODE REVIEW

**Comment by lengyijun** [comment]
Hi  @chenson2018 
Thank you for reviewing my PR!
I'd like to make it easier for you to contribute changes directly. Could you please join [awesome-lambda-calculus](https://github.com/awesome-lambda-calculus) ?
Once you're a member, you'll be able to push commits directly to this PR's branch.

Our main goal is to verify the smallest basis of untyped lambda calculus.
We anticipate a large volume of code commits to the cslib infrastructure.

File: Cslib/Foundations/Relation/Confluence.lean [hunk 1]
```diff
@@ -187,6 +187,14 @@ lemma SN.onFun_of_image {r : β → β → Prop} {f : α → β} (hx : SN r (f x
 
 lemma SN.of_normal (hx : Normal r x) : SN r x := SN.intro fun y hy => (hx ⟨y, hy⟩).elim
 
+lemma SN.to_WN (hx : SN r x) : Normalizable r x := by
+  induction hx with
+  | intro x h ih => by_cases hy: (∃ y, r x y)
+                    · obtain ⟨y, hy⟩ := hy
```
Comment (chenson2018) [inline Cslib/Foundations/Relation/Confluence.lean]: Can you please fix the indentation here? I'd appreciate your checking beforehand since this has come up a few times in previous PRs. (And soon we'll hopefully have an autoformatter!)

**Comment by thomaskwaring** [comment]
`SN.isNormalizable` already exists with precisely this signature

**Comment by lengyijun** [comment]
I have reproved `SN.isNormalizable` to make theorem related to `sn` adjacent

**Comment by chenson2018** [comment]
> I have reproved `SN.isNormalizable` to make theorem related to `sn` adjacent

Can you update the title and description to reflect this?

**Comment by thomaskwaring** [comment]
seems reasonable to me -- possibly the name should also be changed to `SN.normalizable`? (the current name is probably my mistake.) with a deprecation if that's the policy

File: Cslib/Foundations/Relation/Confluence.lean [hunk 2]
```diff
@@ -187,6 +187,14 @@ lemma SN.onFun_of_image {r : β → β → Prop} {f : α → β} (hx : SN r (f x
 
 lemma SN.of_normal (hx : Normal r x) : SN r x := SN.intro fun y hy => (hx ⟨y, hy⟩).elim
 
+theorem SN.normalizable (hx : SN r x) : Normalizable r x := by
+  induction hx with | intro x h ih =>
+  by_cases hy: (∃ y, r x y)
```
Comment (thomaskwaring) [inline Cslib/Foundations/Relation/Confluence.lean:192]:
```suggestion
  by_cases hy : (∃ y, r x y)
```

Comment (chenson2018) [inline Cslib/Foundations/Relation/Confluence.lean:192]:
```suggestion
  by_cases hy : ∃ y, r x y
```

File: Cslib/Foundations/Relation/Confluence.lean [hunk 3]
```diff
@@ -187,6 +187,14 @@ lemma SN.onFun_of_image {r : β → β → Prop} {f : α → β} (hx : SN r (f x
...
+  · obtain ⟨y, hy⟩ := hy
+    obtain ⟨z, hz, hnormal⟩ := ih y hy
+    exact ⟨z, .trans (.single hy) hz, hnormal⟩
```
Comment (thomaskwaring) [inline Cslib/Foundations/Relation/Confluence.lean]: this could be, if you like:
```suggestion
    exact ⟨z, hz.head hy, hnormal⟩
```

**Review by thomaskwaring — APPROVED** [review]
minor style edits otherwise lgtm

**Comment by chenson2018** [comment]
The rename also needs to be applied to other usages of this theorem, otherwise LGTM

**Review by chenson2018 — APPROVED** [review]
